US08648041B2
Ethyl 3-(1-trityl-4-imidazolyl)propionate (93.0 g, 223 mmol) in tetrahydrofuran/diethyl ether (1:1, 100 mL) was added dropwise to a suspension of lithium aluminium hydride (17.0 g, 446 mmol) during 1 hr. The mixture was refluxed for 3 hrs, then treated with water (100 mL), 20% sodium hydroxide (100 mL) and water (100 mL) under cooling with ice/water, filtered and the solid washed with tetrahydrofuran. The organic phase was dried over anhydrous potassium carbonate, filtered and evaporated to give 3-(1-trityl-4-imidazolyl)propanol as white solid.

reactant | Ethyl 3-(1-trityl-4-imidazolyl)propionate | 223 mmol, 93.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)CCC(=O)OCC | C27H26N2O2
reactant | lithium aluminium hydride | 446 mmol, 17.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 100 mL | O | H2O
reactant | sodium hydroxide | 100 mL | [OH-].[Na+]
reactant | water | 100 mL | O | H2O
solvent | tetrahydrofuran diethyl ether | 100 mL | O1CCCC1.C(C)OCC
product | 3-(1-trityl-4-imidazolyl)propanol | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)CCCO | C25H24N2O
